US05142056
1,3-Di-(4-nitrophenoxy)-2-propanol
A solution of 1 g (7.2 mmol) of 4-nitrophenol 0.28 ml (3.6 mmol) of epichlorohydrin, and 0.16 g (3.96 mmol) of sodium hydroxide in 2 ml of dimethylformamide was heated at 110° C. for 1 h. The solvent was removed in vacuo, and the residue was purified by flash chromatography using chloroform to give 0.97 g (81%) of the desired compound (Rf 0.42, 40% ethyl acetate in chloroform). 1H NMR (CDCl3) δ 2.54 (d, 5 Hz, 1H), 4.28 (dd, J=10, 6 Hz, 2H), 4.29 (dd, J=10, 5 Hz, 2H), 4.50 (br sextet, J=6 Hz, 1H), 7.0-7.05 (m, 4H), 8.2-8.3 (m, 4H). Mass spectrum (M+NH4)+ =352.

reactant | 4-nitrophenol | 7.2 mmol, 0.28 ml, 1 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 3.96 mmol, 0.16 g | [OH-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(4-nitrophenoxy)-2-propanol | 0.97 g | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C15H14N2O7
